US06498154B1
4-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)thiophene-2-carbonitrile
Prepared according to the procedure for Example 13 from 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine and 4-bromo-2-thiophenecarbonitrile. An off-white solid: mp 175-176° C.; 1H-NMR (DMSO-d6) δ 8.39 (d, 1H, J=1.5 Hz), 8.13 (d, 1H, J=1.5 Hz), 7.47 (d, 1H, J=1.9 Hz), 7.36 (dd, 1H, J=8.4, 1.9 Hz), 6.59 (d, 1H, J=8.4 Hz), 6.41 (s, 1H), 4.78 (m, 1H), 1.51 (s, 3H), 1.47 (s, 3H), 1.28 (d, 3H, J=5.4 Hz); MS (ESI) m/z 285 [M+H]+.

reactant | 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C11H14BrNO
reactant | 4-bromo-2-thiophenecarbonitrile | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(2,4,4-Trimethyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl)thiophene-2-carbonitrile | CC1NC2=C(C(O1)(C)C)C=C(C=C2)C=2C=C(SC2)C#N | C16H16N2OS
